US05695684
To the resultant mixture, a solution of 2.18 ml (15.8 mM) of 6-methoxyquinoline in 13 ml of dry THF was added dropwise in 30 minutes at the same temperature. After the addition, the dry ice-acetone bath was removed and the mixture was stirred for 1 hour and 40 minutes at room temperature. After the reaction, the reaction mixture was poured into ice water and subjected to extraction with ethyl acetate. The organic layer was washed with water and dried with anhydrous sodium sulfate, followed by evaporation under reduced pressure to obtain a residue. To the residue, 5 ml of nitrobenzene was added, followed by refluxing under stirring. The reaction mixture was subjected to reduced-pressure distillation to distill off nitrobenzene as much as possible. The resultant crude product was purified by silica gel column chromatography (eluent: toluene/ethyl acetate=100/1) and recrystallized from methanol to obtain 2.16 g of 2-(4-pentylphenyl)-6-methoxyquinoline (Yield: 44.8%). This compound showed the following phase transition series.

reactant | 6-methoxyquinoline | 15.8 mM, 2.18 ml | COC=1C=C2C=CC=NC2=CC1 | C10H9NO
reactant | nitrobenzene | 5 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | THF | 13 ml | C1CCOC1 | C4H8O
product | 2-(4-pentylphenyl)-6-methoxyquinoline | 2.16 g, Yield: 44.8% | C(CCCC)C1=CC=C(C=C1)C1=NC2=CC=C(C=C2C=C1)OC | C21H23NO
